Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Seizures, Headaches, left frontal cavernous Malformation
 
Major Surgical or Invasive Procedure:
___ craniotomy for RSX of Cavernous malformation  
 
History of Present Illness:
Mr. ___ is a very pleasant ___ Caucasian male who was 
diagnosed with a left inferolateral frontal lobe cavernous 
malformation approximately ___ years ago in around ___.  He 
has had an episode where he had twitching of the right side of 
his tongue, some dysarthria and that resulted into more 
extensive simple partial seizures.  Now, this past ___, he 
again had a similar episode where he had twitching of the right 
side of his tongue and he had difficulty speaking.  He is 
currently taking Keppra 1000 mg once a day at night.  

A recent CT shows some hyperdensity within the lesion that is 
indicative of recent hemorrhage.  Given the fact that he has 
continuous seizures despite management of antiepileptic drugs 
and the vicinity of the small cavernoma to the brain surface, we 
think it is reasonable to remove it surgically.  We will set him 
up for surgical resection to a preresection Wand Brain Lab MRI 
prior.  He reviewed the risks and benefits of this operation and 
he is okay with preceding.

 
Past Medical History:
Left frontal cavernous malformation w/seizures & headaches 
 
Social History:
___
Family History:
NC
 
Physical Exam:
On Discharge:
alert, oriented x3. PERRL. Face symmetric. Tongue midline. EOM 
intact.
Strength ___ throughout. Sensation intact to light touch.
No pronator drift.
Incision c/d/I with staples - no erythema. Mild L facial 
swelling 

 
Pertinent Results:
 MR HEAD W/ CONTRAST Study Date of ___ 5:16 AM 
  
IMPRESSION: 
 1. Unchanged appearance of a left temporal operculum 1.0 cm 
lesion compatible with a cavernoma with associated large 
developmental venous anomaly. 
  
2. Unchanged appearance of a right posterior parasagittal 0.8 cm 
meningioma. 

 
Brief Hospital Course:
___ Caucasian male who was diagnosed with a left 
inferolateral frontal lobe cavernous malformation approximately 
___ years ago, with recent recurrent seizure activity, who 
presents for elective left craniotomy for Cav Mal resection.

#Inferolateral frontal lobe cavernous malformation: The patient 
was taken to the OR on ___ for a left craniotomy for 
frontal lobe cavernous malformation resection with Dr. ___. 
The procedure was uncomplicated, the patient was extubated and 
recovered in the PACU. He was closely monitored and then was 
transferred to the step down unit when stable. He remained 
neurologically intact. No postop imaging was indicated. Keppra 
was increased to 500 mg qAM and 1000 mg q ___. Foley was removed 
and he was urinating without retention. His diet was advanced 
and well tolerated, he was ambulating, and pain was well 
controlled with PO medications. He was discharged home on POD#2. 

 
Medications on Admission:
Keppra 1gm Daily,  lorazepam (PRN seizures), isotretinoin  
 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN Headache 
no not take >4g acetaminophen in 24 hours from any source  
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
capsule(s) by mouth every 6 hours as needed Disp #*30 Capsule 
Refills:*0 
2.  Docusate Sodium 100 mg PO BID  
3.  LevETIRAcetam 500 mg PO QAM 
RX *levetiracetam [Keppra] 500 mg 1 tablet(s) by mouth every 
morning Disp #*30 Tablet Refills:*0 
4.  LevETIRAcetam 1000 mg PO QHS  
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 4 hours as needed 
Disp #*30 Tablet Refills:*0 
6.  Senna 8.6 mg PO BID:PRN Constipation  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cavernous malformation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Brain Tumor

Surgery
 You underwent surgery to remove a Cavernous Malformation from 
your brain. 
 Please keep your incision dry until your staples are removed. 
 You may shower at this time but keep your incision dry.
 It is best to keep your incision open to air but it is ok to 
cover it when outside. 
 Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
 We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
 You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
 No driving while taking any narcotic or sedating medication. 
 If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
 No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
 Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
 You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
 You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
 You may experience headaches and incisional pain. 
 You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
 You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
 Feeling more tired or restlessness is also common.
 Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
 Severe pain, swelling, redness or drainage from the incision 
site. 
 Fever greater than 101.5 degrees Fahrenheit
 Nausea and/or vomiting
 Extreme sleepiness and not being able to stay awake
 Severe headaches not relieved by pain relievers
 Seizures
 Any new problems with your vision or ability to speak
 Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
 Sudden numbness or weakness in the face, arm, or leg
 Sudden confusion or trouble speaking or understanding
 Sudden trouble walking, dizziness, or loss of balance or 
coordination
 Sudden severe headaches with no known reason

 
Followup Instructions:
___